US05686610
Ethyl 5-[(3-(piperadin-1-yl)propyl)sulfonamido]indole-2-carboxylate
Ethyl 5-[(3-chloropropyl)sulfonamido]indole-2-carboxylate (PREPARATION 82, 2.3 g) is dissolved in acetonitrile (10 ml) and piperadine (27 ml). Solid sodium iodide (1.0 g) is added and the reaction is stirred overnight at 20°-25°. The reaction is diluted with methylene chloride, washed with saturated aqueous sodium bicarbonate, dried over anhydrous sodium sulfate and concentrated under reduced pressure. Purification by flash column chromatography, eluting with a gradient of 5% methanol/methylene chloride to 10% methanol/methylene chloride, pooling and concentration of the appropriate fractions gives the title compound, NMR (300 MHz, d4 -CD3OD) 7.45, 7.32, 7.12, 7.03, 4.28, 2.96, 2.28, 1.18, 1.42, 1.33 and 1.30.

reactant | Ethyl 5-[(3-chloropropyl)sulfonamido]indole-2-carboxylate | 2.3 g | ClCCCS(=O)(=O)NC=1C=C2C=C(NC2=CC1)C(=O)OCC | C14H17ClN2O4S
reactant | sodium iodide | 1.0 g | [I-].[Na+]
reactant | piperadine | 27 ml | N1CCCCC1 | C5H11N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | Ethyl 5-[(3-(piperadin-1-yl)propyl)sulfonamido]indole-2-carboxylate | N1(CCCCC1)CCCS(=O)(=O)NC=1C=C2C=C(NC2=CC1)C(=O)OCC | C19H27N3O4S
